US07399778B2
1-[1-(4-Methylbenzyl)-1H-1,2,4-triazol-5-yl]ethanol was synthesized in a manner similar to that of the procedure in Example 21B but using 1-(4-methylbenzyl)-1H-1,2,4-triazole and acetaldehyde as the starting materials. The product was isolated as a white solid in 86% yield. 1H NMR (400 MHz, DMSO-d6) δ 1.26 (d, 3H, J=6.9 Hz), 2.22 (s, 3H), 3.27 (s, 1H), 4.88-4.94 (m, 1H), 5.66 (d, 2H, J=5.91 Hz), 7.09 (s, 4H), 7.79 (s, 1H).

reactant | 1-(4-methylbenzyl)-1H-1,2,4-triazole | CC1=CC=C(CN2N=CN=C2)C=C1 | C10H11N3
reactant | acetaldehyde | C(C)=O | C2H4O
product | 1-[1-(4-Methylbenzyl)-1H-1,2,4-triazol-5-yl]ethanol | 86% yield | CC1=CC=C(CN2N=CN=C2C(C)O)C=C1 | C12H15N3O
